US06037342
5-Chloro-7-methyl-2-(4-methyl-1-homopiperazinyl)benzoxazole
5-Chloro-7-methyl-2-mercaptobenzoxazole (200 mg) was dissolved in toluene (10 ml), N-methylhomopiperazine (1.24 ml) was added dropwise to the solution and then the mixture was stirred with heating for 1 hour. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=10:1) to obtain the title compound 5-chloro-7-methyl-2-(4-methyl-1-homopiperazinyl)benzoxazole (266 mg).

reactant | 5-Chloro-7-methyl-2-mercaptobenzoxazole | 200 mg | ClC=1C=C(C2=C(N=C(O2)S)C1)C | C8H6ClNOS
reactant | N-methylhomopiperazine | 1.24 ml | CN1CCNCCC1 | C6H14N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-7-methyl-2-(4-methyl-1-homopiperazinyl)benzoxazole | 266 mg | ClC=1C=C(C2=C(N=C(O2)N2CCN(CCC2)C)C1)C | C14H18ClN3O
